US06251926B1
Diethyl azodicarboxylate (40% toluene solution, 54.0 g) was added dropwise to a solution of 4-(tert-butyldimethylsilyloxy)benzylalcohol (27.5 g), N-hydroxyphthalimide (16.8 g) and triphenylphosphine (31.1 g) in tetrahydrofuran (450 ml) at room temperature and stirred for 18 hours. After the reaction mixture was concentrated, diisopropyl ether (200 ml) was added and the residual crystals were removed by filtration. The filtrate was concentrated, and the residue was subjected to silica gel chromatography to obtain N-[4-(tert-butyldimethylsilyloxy)benzyloxy]phthalimide (17.4 g, yield 43%) as crystals from an ethyl acetate-hexane-toluene (1:10:10, v/v)-eluted fraction. The crystals were recrystallized from ethyl acetate-hexane to obtain colorless crystals. m.p. 76-77° C.

reactant | Diethyl azodicarboxylate | 54.0 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(tert-butyldimethylsilyloxy)benzylalcohol | 27.5 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(CO)C=C1 | C13H22O2Si
reactant | N-hydroxyphthalimide | 16.8 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 31.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate hexane toluene | C(C)(=O)OCC.CCCCCC.C1(=CC=CC=C1)C
product | N-[4-(tert-butyldimethylsilyloxy)benzyloxy]phthalimide | 17.4 g, yield 43% | [Si](C)(C)(C(C)(C)C)OC1=CC=C(CON2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C21H25NO4Si
